US07947690B2
A mixture of 1-tert-butoxycarbonylpiperidin-4-ol, triethylamine, benzenesulfonyl chloride, and methylene chloride was stirred at ambient temperature for 2 days to yield 1-tert-butoxycarbonylpiperidin-4-yl benzenesulfonate. A mixture of 1-tert-butoxycarbonylpiperidin-4-yl benzenesulfonate obtained, diethyl malonate, 20% NaOEt-EtOH, and EtOH was heated under reflux with stirring for 22 hours to yield diethyl[1-(tert-butoxycarbonyl)piperidin-4-yl]malonate. A mixture of diethyl [1-(tert-butoxycarbonyl)piperidin-4-yl]malonate obtained, lithium borohydride, toluene, and THF was stirred at 60° C. for 18 hours to yield 2-(1-tert-butoxycarbonylpiperidin-4-yl)propane-1,3-diol, which was stirred together with 4M HCl-dioxane solution in MeOH at ambient temperature for 1 hour to yield 2-piperidin-4-ylpropane-1,3-diol hydrochloride.

reactant | 1-tert-butoxycarbonylpiperidin-4-ol | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-tert-butoxycarbonylpiperidin-4-yl benzenesulfonate | C1(=CC=CC=C1)S(=O)(=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C16H23NO5S
